US07534547B2
To 7.4 g (21.2 mmol) of 4-(tert-butoxycarbonyloxy)-4′-bromobiphenyl synthesized in the Example 9, were added 2.85 g (22.2 mmol) of tert-butyl acrylate, 10 ml of triethylamine, 30 ml of acetonitrile, 50 mg (2.22×10−1 mmol) of palladium acetate [Pd(OAc)2], and 116 mg (4.42×10−1 mmol) triphenylphosphine. The reaction system was purged with argon, and the reaction was conducted for 24 hours with heating and refluxing. The reaction mixture was poured into 500 ml of an iced water, and hydrochloric acid was added to the resultant mixture with stirring. The solid formed by stirring was collected by filtration, washed with water, dried, and recrystallized from methanol to give 7.9 g (19.9 mmol) of tert-butyl-4-(4′-tert-butoxycarbonyloxyphenyl)cinnamate.

reactant | 4-(tert-butoxycarbonyloxy)-4′-bromobiphenyl | 21.2 mmol, 7.4 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C17H17BrO3
reactant | tert-butyl acrylate | 22.2 mmol, 2.85 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 2.22×10−1 mmol, 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 4.42×10−1 mmol, 116 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | tert-butyl-4-(4′-tert-butoxycarbonyloxyphenyl)cinnamate | 19.9 mmol, 7.9 g | C(C)(C)(C)OC(C=CC1=CC=C(C=C1)C1=CC=C(C=C1)OC(=O)OC(C)(C)C)=O | C24H28O5
